US05846989
g) N-[2-[2-(4-Fluorophenyl)ethoxy]ethyl]-3-[2-(4-hydroxy-2-oxo-3H-1,3-benzothiazol-7-yl)ethylamino]propanesulphonamide hydrochloride
The title compound (0.092 g) was prepared according to the method of Example 3e) using methyl 3-[2-[2-(4-fluorophenyl)ethoxy]ethylaminosulphonyl]propanoate (1.0 g), diisobutylaluminiumhydride (1.5M in toluene, 4 ml), 7-(2-aminoethyl)-4-hydroxy-1,3-benzothiazol-2-(3H)-one hydrochloride (0.875 g) and sodium cyanoborohydride (0.354 g).

reactant | methyl 3-[2-[2-(4-fluorophenyl)ethoxy]ethylaminosulphonyl]propanoate | 1.0 g | FC1=CC=C(C=C1)CCOCCNS(=O)(=O)CCC(=O)OC | C14H20FNO5S
reactant | diisobutylaluminiumhydride | 1.5M, 4 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 7-(2-aminoethyl)-4-hydroxy-1,3-benzothiazol-2-(3H)-one hydrochloride | 0.875 g | Cl.NCCC1=CC=C(C=2NC(SC21)=O)O
reactant | sodium cyanoborohydride | 0.354 g | C(#N)[BH3-].[Na+]
product | N-[2-[2-(4-Fluorophenyl)ethoxy]ethyl]-3-[2-(4-hydroxy-2-oxo-3H-1,3-benzothiazol-7-yl)ethylamino]propanesulphonamide hydrochloride | 0.092 g | Cl.FC1=CC=C(C=C1)CCOCCNS(=O)(=O)CCCNCCC1=CC=C(C=2NC(SC21)=O)O | InChI=1S/C22H28FN3O5S2.ClH/c23-18-5-2-16(3-6-18)9-13-31-14-12-25-33(29,30)15-1-10-24-11-8-17-4-7-19(27)20-21(17)32-22(28)26-20;/h2-7,24-25,27H,1,8-15H2,(H,26,28);1H
